Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil / coconut / 
Wellbutrin / ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
headache, dysuria, L sided weakness
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Neurology Resident Stroke Admission Note 

Neurology at bedside for evaluation after code stroke activation 
within: <1 minutes
Time/Date the patient was last known well: ___ 1430
Pre-stroke mRS ___ social history for description): 3
t-PA Administration
  [] Yes - Time given:
  [x] No - Reason t-PA was not given/considered: pt on apixaban, 
confirms she took today's AM dose
Endovascular intervention: []Yes [x]No
I was present during the CT scanning and reviewed the images 
instantly (within 20 minutes of their completion).

The NIHSS was performed: 
    Date: ___
    Time: 1615
(within 6 hours of patient presentation or neurology consult)  

___ Stroke Scale score: Total [6]
 1a. Level of Consciousness: 0 
 1b. LOC Question: 0 
 1c. LOC Commands: 0 
 2. Best gaze: 0 
 3. Visual fields: 0 
 4. Facial palsy: 1  
 5a. Motor arm, left: 1 
 5b. Motor arm, right: 0 
 6a. Motor leg, left: 1 
 6b. Motor leg, right: 0 
 7. Limb Ataxia: 0 
 8. Sensory: 1 
 9. Language: 1 
 10. Dysarthria: 1 
 11. Extinction and Neglect: 0 

HPI: 
Eucritical, Fifi (aka ___ ___ is a ___ yo woman 
with history of stroke, baseline L arm/leg weakness, NCSE who 
presents with acute onset speech change and left weakness and  
headache. 

She spent the day with her daughters, and they report she was at 
her baseline until approx ___, when she began to have 
difficulty with language and at times said incorrect words. She 
also had L facial droop at that time, which family states is not 
baseline for her. Family thinks her left-sided weakness may also 
have been worse. Ms. ___ states she began to feel some 
change in her speech around 1000-1030, as well as feeling of 
'swelling' around her L eye. When this 1000 time discussed with 
daughters, they state that they were with Ms. ___ at the 
time and feel strongly there was no speech change at that time. 

Ms. ___ had gradual onset headache approx 1300-1400. R 
temporal/retroorbital, throbbing. This is the same as headaches 
she has had in the past year, but more severe. Associated with 
nausea and photophobia. This is her main complaint at the time 
of my evaluation, though she notes the L-sided deficits. 

Regarding her history of stroke, some records indicate stroke 
with subsequent L hemiparesis in ___. Some records also 
mention stroke in ___, though details are unknown and care for 
these reported infarcts did not occur at ___. There were also 
3 punctate subacute cerebellar infarcts in ___. She has had 
hypercoagulable workup, all negative. (see ___ note by Dr. 
___ further details). 

She has had numerous admissions for identical worsening 
neurologic symptoms during which she presents with speech 
change, L facial droop, worsening of baseline L arm/leg 
weakness, and L hemibody sensory change. Examples include:
___- attributed to recrudescence, associated with R-sided 
throbbing headache. 
___- attributed to unwitnessed partial seizure, associated 
with typical headache. 
___
 
Past Medical History:
- h/o HTN and DMII, resolved after gastric bypass per patient  
 - s/p cholecystectomy and gastric bypass (___), with f/u  
 complicated by multiple ex lap, gastrectomy, reversal surgery,  

 failed J-tube c/b colonic perforation  
 - multiple SBO during f/u from above  
 - hernia repair  
 - chronic abdominal pain, peptic ulcer disease  
 - asthma, stroke (left sided), osteoarthritis, GERD, DVT/PE  
 - narcotic abuse, tobacco abuse  
 - depression, anxiety  
 - muscle weakness / myelopathy, chronic low back pain  
 - vulvar folliculitis  
 - arthorplasty - right total knee  
 - hepatitis C - positive ab test, negative HCV viral load in 2x 
 
 tests  
 - nephrolithiasis  
 - thyromegaly - TSH wnl, low free T4  

 
Social History:
___
Family History:
Mother with diabetes and HTN. Brother with CHF 
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
PHYSICAL EXAMINATION
Vitals:  T: 98.5 HR: 72 BP: 110/76 RR: 12 SaO2: 99% RA
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate 
history with some elaboration from and conflict with history per 
family members.  ___ inattentive to exam.  Speech fluency is 
mildly reduced. Occasional paraphasic errors. Naming intact to 
high but not low frequency words (with stroke card, calls chair 
'toilet seat', cactus 'tree'). Repetition intact. Comprehension 
intact to complex, cross-body commands. Normal prosody. Overall, 
speech is somewhat effortful and labored. 

-Cranial Nerves: PERRL 3->2. VFF to confrontation. EOMI without 
nystagmus. Facial sensation intact to light touch. L facial 
droop. Hearing intact to conversation. Palate elevates 
symmetrically. ___ strength in trapezii bilaterally. Tongue 
protrudes in midline and moves briskly to each side. Mild labial 
dysarthria. 

- Motor:  Normal bulk and tone. No tremor nor asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc         
L  4-   4+  ___  3     4   4+   4  4                  
R  5    ___   5  5     5   5    5  5                 

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  3  2    3    2   0                        
 R  3  2    3    0*  0                           
Plantar response was flexor bilaterally.
*s/p knee replacement

-Sensory: Decreased sensation to PP left hemibody. 

- Coordination: No dysmetria with finger to nose testing 
bilaterally. 

- Gait: deferred
DISCHARGE PHYSICAL EXAM: 
- Mental status: Awake, alert, oriented x 3. Able to relate 
history with some elaboration from and conflict with history per 
family members.  Speech fluent without paraphasic errors.  
Repetition intact. Comprehension intact to complex, cross-body 
commands. Normal prosody. Overall, speech is somewhat effortful 
and labored. 

-Cranial Nerves: PERRL 3->2. VFF to confrontation. EOMI without 
nystagmus. Facial sensation intact to light touch. Slight L 
facial droop. Hearing intact to conversation. Palate elevates 
symmetrically. ___ strength in trapezii bilaterally. Tongue 
protrudes in midline and moves briskly to each side. Mild labial 
dysarthria. 

- Motor:  Normal bulk and tone. No tremor nor asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc         
L  5    ___   ___  5   5    5  5    5                  

R  5    ___   ___  5   5    5  5    5                
*significant give-way weakness but with encouragement she is 
able to give full effort
-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  3  2    3    2   0                        
 R  3  2    3    0*  0                           
Plantar response was flexor bilaterally.
*s/p knee replacement

-Sensory: Intact to light touch throughout
- Coordination: No dysmetria with finger to nose testing 
bilaterally. 
- Gait: deferred
 
Pertinent Results:
Laboratory Testing: 

___ 04:35AM BLOOD WBC-3.5* RBC-2.57* Hgb-8.3* Hct-26.1* 
MCV-102* MCH-32.3* MCHC-31.8* RDW-14.7 RDWSD-54.9* Plt ___
___ 04:35AM BLOOD ___ PTT-30.7 ___
___ 04:35AM BLOOD Glucose-77 UreaN-16 Creat-0.8 Na-142 
K-4.1 Cl-106 HCO3-26 AnGap-10
___ 04:35AM BLOOD ALT-13 AST-21 AlkPhos-69 TotBili-<0.2
___ 04:35AM BLOOD Albumin-2.3* Calcium-8.1* Phos-4.1 Mg-1.7 
Cholest-117
___ 04:35AM BLOOD %HbA1c-4.7 eAG-88
___ 04:35AM BLOOD Triglyc-42 HDL-83 CHOL/HD-1.4 LDLcalc-26
___ 04:35AM BLOOD TSH-1.5
IMAGING: 
CT PERFUSION: CBF <30%: 0 mL. Tmax >6.0s: 0 mL. Mismatch volume: 
0 mL.  
Mismatch ratio: None. 
CTA HEAD AND NECK: Bilateral carotid and vertebral arteries are 
patent without evidence of significant stenosis or occlusion. 
The left vertebral artery is diminutive. The intracranial 
vessels are patent without stenosis occlusion or aneurysm 
greater than 3 mm. 
  
Multiple subcentimeter hypodense nodules are seen in bilateral 
thyroid lobes. 
  
MRI brain
IMPRESSION:  
1.  Punctate focus mildly hyperintense diffusion weighted signal 
in the right cerebellar hemisphere (302:11) is less conspicuous 
than on prior exams and may relate to a tiny punctate chronic 
right cerebellar infarct. 
  
2.  No acute intracranial abnormality. 

 
Brief Hospital Course:
Brief Hospital Course: 
Ms. ___ is a ___ yo woman with history of stroke, baseline L 
arm/leg weakness, and NCSE who presented with acute onset speech 
change, left facial as well as left upper/lower extremity 
weakness and headache. Exam on admission with mildly decreased 
fluency aphasia with paraphasic errors, L facial droop with 
+labial dysarthria, and left hemiparesis in UMN pattern. This is 
one of at least three identical presentations in the past year. 
MRI without co-localizing stroke in the other two admissions 
(during ___ admission, there were three punctate cerebellar 
infarcts, felt to be incidental and unrelated). These 
presentations are all accompanied by throbbing R-sided headache. 
MRI brain did not reveal new lesions. Initial workup positive 
for hypoglycemia and a UTI. Pt started on antibiotic for UTI, 
hypoglycemia corrected and headache was treated with migraine 
cocktail. With these interventions strength and fluency of 
speech returned to baseline and dysarthria resolved.

#Hx of CVAs/ Copper Myelopathy/ Left sided weakness
Pt reports that she had "old strokes " in ___ treated here 
at ___ we don't have notes dating back to that time. Earliest 
note is in ___ which shows that she came to the ___ 
clinic with left sided weakness due to vitamin deficiency and 
the weakness  improved back to normal with copper replacement. 
Strength is full again today,so her transient left sided 
weakness improved with migraine treatment, correction of 
hypoglycemia, and UTI antibiotics. 
-A1c: 4.7, LDL: 26, TSH: 1.5. MRI brain showed already known 
punctate cerebellar infarcts
-Will start atorvastatin 40mg daily
-Will continue apixiban for now 

# Headache
Migrainous in nature and resolved with migraine cocktail (IV 
benadryl, IV Compazine, IV mg and PO prednisone were required, 
avoided NSAIDs secondary to allergy). Patient has ___ HAs/month 
similar in nature which normally resolve with Tylenol. Further 
monitoring of headaches by PCP as an outpatient. 
-Finish steroid taper as outpatient 
-Consider substituting one of current AEDs with topamax

#UTI
UA indicative of UTI, patient reported symptoms of dysuria and 
frequency which resolved with antibiotics.
-Patient to complete course of macrobid upon discharge, follow 
up with PCP for further concerns

#Heme: 
Pt w/baseline anemia H/H 8.3/25.6; will continue home B12 
folate. Hx of pulmonary embolism/ DVTs in ___ for which pt was 
placed on Xarelto. Hypercoag workup negative except for a 
positive anti-phospholipid antibody which was thought to be a 
false positive secondary to Xarelto use. At some point pt was 
switched to Apixiban and is now taking this medication daily. Pt 
unsure how long she has been on this medication. Requesting 
followup by PCP or ___ for further hypercoaguability workup and 
to evaluate whether this medication is still indicated. From 
stroke standpoint she is okay to be on just antiplatelet as 
there is no evidence of afib or hypercoaguability.

#Epilepsy: 
-continue home levetiracetam 1500mg q12h
-continue home lacosamide 200mg q12h

# Cardiopulmonary:
Troponin <.01, no abnormalities on telemetry. TTE was not 
completed as MRI brain without new stroke. Patient can continue 
home cardioprudent meds upon discharge.

_
_
_
_
_
________________________________________________________________
Transitional Issues:
1. Follow up with already established epileptologist, Dr. 
___ the need for continued dual AEDs and potentially 
substituting one with Topamax given migraines. 
2. Follow up with PCP for UTI, migraine management, and general 
health maintenance
3. Follow up with hematology for appropriateness/indication for
continued OAC. ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. BuPROPion (Sustained Release) 200 mg PO BID 
3. Doxepin HCl 10 mg PO HS 
4. DULoxetine 40 mg PO DAILY 
5. FoLIC Acid 1 mg PO DAILY 
6. Gabapentin 100 mg PO TID 
7. LACOSamide 200 mg PO BID 
8. LevETIRAcetam 1500 mg PO BID 
9. Methadone 10 mg PO TID 
10. Omeprazole 20 mg PO DAILY 
11. Promethazine 6.25 mg PO BID:PRN nausea 
12. QUEtiapine Fumarate 75 mg PO QHS 
13. Thiamine 100 mg PO DAILY 
14. Zinc Sulfate 75 mg PO DAILY 
15. Cyanocobalamin 100 mcg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 40 tablet(s) by mouth once daily Disp 
#*90 Tablet Refills:*3 
2.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 6 
Doses 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth two times a day Disp #*6 Capsule Refills:*0 
3.  PredniSONE 50 mg PO ONCE Duration: 1 Dose 
This is dose # 1 of 6 tapered doses
RX *prednisone 10 mg 1 tablet(s) by mouth dily Disp #*15 Tablet 
Refills:*0 
4.  PredniSONE 40 mg PO ONCE migraine Duration: 1 Dose 
This is dose # 2 of 6 tapered doses 
5.  PredniSONE 30 mg PO ONCE migraine Duration: 1 Dose 
This is dose # 3 of 6 tapered doses 
6.  PredniSONE 20 mg PO ONCE migraine Duration: 1 Dose 
This is dose # 4 of 6 tapered doses 
7.  PredniSONE 10 mg PO ONCE migraine Duration: 1 Dose 
This is dose # 5 of 6 tapered doses 
8.  PredniSONE 5 mg PO ONCE migraine Duration: 1 Dose 
This is dose # 6 of 6 tapered doses 
9.  Apixaban 5 mg PO BID  
10.  BuPROPion (Sustained Release) 200 mg PO BID  
11.  Cyanocobalamin 100 mcg PO DAILY  
12.  Doxepin HCl 10 mg PO HS  
13.  DULoxetine 40 mg PO DAILY  
14.  FoLIC Acid 1 mg PO DAILY  
15.  Gabapentin 100 mg PO TID  
16.  LACOSamide 200 mg PO BID  
17.  LevETIRAcetam 1500 mg PO BID  
18.  Methadone 10 mg PO TID  
19.  Omeprazole 20 mg PO DAILY  
20.  Promethazine 6.25 mg PO BID:PRN nausea  
21.  QUEtiapine Fumarate 75 mg PO QHS  
22.  Thiamine 100 mg PO DAILY  
23.  Zinc Sulfate 75 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Migraine 
Urinary tract infection
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

You were hospitalized due to symptoms of headache and UTI that 
worsened your left sided weakness. You were admitted and started 
on antibiotics for your UTI. You also were given treatment for 
your migraine including iv fluids, anti nausea medications, and 
magnesium which is good for migraines. You also had an MRI brain 
to make sure you did not have any new strokes and it was 
negative.  

We encourage you to continue taking your medications as 
prescribed including your apixaban, and your seizure 
medications. You are scheduled to follow-up with Dr. ___ on 
___ at 4:00pm. 

It was a pleasure taking care of you! 

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___